US04734416
4.4 Grams of 5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril and 3.4 g of 4-phenylpiperazine are dispersed in 60 ml of methanol and reacted at 50°-60° C. for 3 hours. After the reaction is completed, the reaction mixture is concentrated under a reduced pressure. To the residue thus obtained are added 5 ml of concentrated hydrochloric acid and 30 ml of ethanol to dissolve the residue uniformly and further 200 ml of acetone are added. The crystals precipitated are collected by filtration and dried. Recrystallization from water obtains 6.5 g of 5-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril monohydrochloride in the form of colorless needle-like crystals with a melting point of 239°-241° C.

reactant | 5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | O1C(COC2=C3CCC(NC3=CC=C2)=O)C1 | C12H13NO3
reactant | 4-phenylpiperazine | 3.4 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | methanol | 60 ml | CO | CH4O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril monohydrochloride | 6.5 g | Cl.OC(COC1=C2CCC(NC2=CC=C1)=O)CN1CCN(CC1)C1=CC=CC=C1 | InChI=1S/C22H27N3O3.ClH/c26-18(15-24-11-13-25(14-12-24)17-5-2-1-3-6-17)16-28-21-8-4-7-20-19(21)9-10-22(27)23-20;/h1-8,18,26H,9-16H2,(H,23,27);1H
